US04863929
1,1-Diethyl-3-(6-methyl-12-methylthio-8α-ergolinyl)thiourea
At -20° C., 5.79 g of 1,1-diethyl-3-(6-methyl-12-methylthio-8α-ergolinyl)urea (15 mmol) is dissolved in a mixture of 4.13 g of freshly distilled phosphorus oxychloride (45 mmol) and 50 ml of anhydrous methylene chloride and the temperature is allowed to rise within 4 hours to +10° C. The mixture is stirred overnight at room temperature and then another 2 hours at 40° C.,and the solvent is subsequently distilled off under vacuum. The residue is dissolved in 50 ml of anhydrous acetonitrile, cooled to -10° C., combined with 7.2 g of potassium ethylxanthate (45 mmol), and stirred at room temperature for 20 hours. The solvent is exhaustively removed by distillation; then the mixture is distributed between ethyl acetate and saturated sodium carbonate solution; the organic phase is dried with sodium sulfate and evaporated. The residue is crystallized from ethyl acetate, yielding 82%.

reactant | 1,1-diethyl-3-(6-methyl-12-methylthio-8α-ergolinyl)urea | 15 mmol, 5.79 g | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=CNC4=CC=C(C([C@H]2C1)=C34)SC)C)CC | C21H30N4OS
reactant | phosphorus oxychloride | 45 mmol | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | potassium ethylxanthate | 45 mmol, 7.2 g | C(C)OC(=S)[S-].[K+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1,1-Diethyl-3-(6-methyl-12-methylthio-8α-ergolinyl)thiourea | C(C)N(C(=S)N[C@@H]1CN([C@@H]2CC3=CNC4=CC=C(C([C@H]2C1)=C34)SC)C)CC | C21H30N4S2
